*********************************************************************
*
* IBIS filename: hct1g08.ibs
* Component: 74HCT1G08_GV
* Model: HCT1G08_IN_50
* Model Type: Input
* Corner: FastStrong
* Voltage Range (V): [5.0 4.5 5.5] (Typ, Min, Max)
* Temperature Range (degC): [35.0 -30.0 95.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT HCT1G08_IN_50-Input-FastStrong IN

.param C_pkg = 4.174e-13
.param L_pkg = 1.309e-09
.param R_pkg = 0.08199
.param C_comp = 5.2328e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 5.5
B1 DIE PWR_CLAMP_REF I = table(V(DIE), 1.0, 1.7703e-15, 1.101, 2.4876e-15, 1.202, 3.2023e-15, 1.303, 3.9239e-15, 1.404, 4.6334e-15, 1.5051, 5.3499e-15, 1.6061, 6.0646e-15, 1.7071, 6.781e-15, 1.8081, 7.4975e-15, 1.9091, 8.2139e-15, 2.0101, 8.9269e-15, 2.1111, 9.6381e-15, 2.2121, 1.0356e-14, 2.3131, 1.1071e-14, 2.4141, 1.1789e-14, 2.5152, 1.2504e-14, 2.6162, 1.3215e-14, 2.7172, 1.3937e-14, 2.8182, 1.4648e-14, 2.9192, 1.5363e-14, 3.0202, 1.6077e-14, 3.1212, 1.6796e-14, 3.2222, 1.751e-14, 3.3232, 1.8225e-14, 3.4242, 1.8943e-14, 3.5253, 1.9661e-14, 3.6263, 2.0366e-14, 3.7273, 2.1087e-14, 3.8283, 2.1805e-14, 3.9293, 2.2524e-14, 4.0303, 2.3231e-14, 4.1312999999999995, 2.396e-14, 4.2323, 2.4668e-14, 4.3332999999999995, 2.5376e-14, 4.4343, 2.6097e-14, 4.53535, 2.6819e-14, 4.63636, 2.7527e-14, 4.73737, 2.8248e-14, 4.83838, 2.8963e-14, 4.9393899999999995, 2.9685e-14, 5.0404, 3.0392e-14, 5.14141, 3.1121e-14, 5.24242, 3.1836e-14, 5.34343, 3.2536e-14, 5.444444, 3.3279e-14, 5.545455, 3.4056e-14, 5.64646, 3.4771e-14, 5.74747, 3.5597e-14, 5.84848, 5.0071e-14, 5.94949, 1.7568e-12, 6.05051, 2.1344e-10, 6.15152, 2.6474e-08, 6.25253, 3.2201e-06, 6.35354, 0.00015488, 6.45455, 0.00068667, 6.5556, 0.0013464, 6.6566, 0.0020442, 6.7576, 0.002758, 6.8586, 0.0034799, 6.9596, 0.0042068, 7.0606, 0.0049395, 7.1616, 0.0056779, 7.2626, 0.0064196, 7.3636, 0.0071637, 7.4646, 0.0079095, 7.5657, 0.0086567, 7.6667000000000005, 0.0094051, 7.7677, 0.010155, 7.8687000000000005, 0.010905, 7.9697, 0.011656, 8.0707, 0.012408, 8.1717, 0.01316, 8.2727, 0.013913, 8.3737, 0.014666, 8.4747, 0.015419, 8.575800000000001, 0.016173, 8.6768, 0.016928, 8.7778, 0.017682, 8.8788, 0.018437, 8.979800000000001, 0.019193, 9.0808, 0.019948, 9.181799999999999, 0.020704, 9.2828, 0.02146, 9.3838, 0.022216, 9.4848, 0.022972, 9.585899999999999, 0.023729, 9.6869, 0.024485, 9.7879, 0.025242, 9.8889, 0.025999, 9.989899999999999, 0.026756, 10.090900000000001, 0.027513, 10.1919, 0.02827, 10.2929, 0.029028, 10.3939, 0.029785, 10.494900000000001, 0.030543, 10.596, 0.031301, 10.697, 0.032058, 10.798, 0.032816, 10.899000000000001, 0.033574, 11.0, 0.034332)
V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -1.7169, -4.6, -1.376, -3.7, -1.0357, -2.8, -0.69634, -1.9, -0.35935, -1.0, -0.036074, -0.9875, -0.032256, -0.975, -0.028533, -0.9625, -0.024922, -0.95, -0.021447, -0.9375, -0.018134, -0.925, -0.01502, -0.9125, -0.012145, -0.9, -0.0095596, -0.8875, -0.0073131, -0.875, -0.0054486, -0.8625, -0.003985, -0.85, -0.0029038, -0.8375, -0.0021483, -0.825, -0.0016405, -0.8125, -0.0013034, -0.8, -0.001076, -0.7875, -0.00091591, -0.775, -0.00079641, -0.7625, -0.00070145, -0.75, -0.00062171, -0.7375, -0.00055193, -0.725, -0.00048912, -0.7125, -0.00043166, -0.7, -0.00037865, -0.6875, -0.00032964, -0.675, -0.00028437, -0.6625, -0.00024276, -0.65, -0.00020477, -0.6375, -0.0001704, -0.625, -0.00013967, -0.6125, -0.00011256, -0.6, -8.9038e-05, -0.5875, -6.9021e-05, -0.575, -5.2354e-05, -0.5625, -3.8817e-05, -0.55, -2.8114e-05, -0.5375, -1.989e-05, -0.525, -1.3756e-05, -0.5125, -9.2997e-06, -0.5, -6.154e-06, -0.4875, -4.001e-06, -0.475, -2.5617e-06, -0.4625, -1.619e-06, -0.45, -1.012e-06, -0.4375, -6.2671e-07, -0.425, -3.8479e-07, -0.4125, -2.3414e-07, -0.4, -1.4074e-07, -0.3875, -8.2648e-08, -0.375, -4.6281e-08, -0.3625, -2.4446e-08, -0.35, -1.2481e-08, -0.3375, -6.285e-09, -0.325, -3.147e-09, -0.3125, -1.572e-09, -0.3, -7.8456e-10, -0.2875, -3.9154e-10, -0.275, -1.9547e-10, -0.2625, -9.7644e-11, -0.25, -4.8816e-11, -0.2375, -2.4428e-11, -0.225, -1.2237e-11, -0.2125, -6.1375e-12, -0.2, -3.0832e-12, -0.1875, -1.5521e-12, -0.175, -7.8386e-13, -0.1625, -3.9794e-13, -0.15, -2.0386e-13, -0.1375, -1.0612e-13, -0.125, -5.6827e-14, -0.1125, -3.1914e-14, -0.1, -1.9286e-14, -0.0875, -1.2854e-14, -0.075, -9.5513e-15, -0.0625, -7.8298e-15, -0.05, -6.9067e-15, -0.0375, -6.3841e-15, -0.025, -6.0566e-15, -0.0125, -5.8128e-15, 0.0, 0.0, 0.61111, 0.0, 1.2222, 0.0, 1.8333, 0.0, 2.4444, 0.0, 3.0556, 0.0, 3.6667, 0.0, 4.2778, 0.0, 4.8889, 0.0, 5.5, 0.0)

.ENDS
