*********************************************************************
*
* IBIS filename: hct1g08.ibs
* Component: 74HCT1G08_GV
* Model: HCT1G08_IN_50
* Model Type: Input
* Corner: Typical
* Voltage Range (V): [5.0 4.5 5.5] (Typ, Min, Max)
* Temperature Range (degC): [35.0 -30.0 95.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT HCT1G08_IN_50-Input-Typical IN

.param C_pkg = 2.711e-13
.param L_pkg = 1.305e-09
.param R_pkg = 0.08192
.param C_comp = 2.8774e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 5.0
B1 DIE PWR_CLAMP_REF I = table(V(DIE), 0.5, 4.0759e-12, 0.601, 4.1168e-12, 0.702, 4.1583e-12, 0.8029999999999999, 4.2002e-12, 0.9039999999999999, 4.2426e-12, 1.0051, 4.2853e-12, 1.1061, 4.3284e-12, 1.2071, 4.3719e-12, 1.3081, 4.4158e-12, 1.4091, 4.4601e-12, 1.5101, 4.5048e-12, 1.6111, 4.5499e-12, 1.7121, 4.5953e-12, 1.8131, 4.6412e-12, 1.9141, 4.6875e-12, 2.0152, 4.7341e-12, 2.1162, 4.7812e-12, 2.2172, 4.8287e-12, 2.3182, 4.8766e-12, 2.4192, 4.9249e-12, 2.5202, 4.9737e-12, 2.6212, 5.0229e-12, 2.7222, 5.0726e-12, 2.8232, 5.1227e-12, 2.9242, 5.1732e-12, 3.0253, 5.2243e-12, 3.1263, 5.2758e-12, 3.2273, 5.3279e-12, 3.3283, 5.3805e-12, 3.4293, 5.4336e-12, 3.5303, 5.4873e-12, 3.6313, 5.5416e-12, 3.7323, 5.5965e-12, 3.8333, 5.652e-12, 3.9343, 5.7082e-12, 4.03535, 5.7652e-12, 4.13636, 5.8229e-12, 4.23737, 5.8814e-12, 4.33838, 5.9407e-12, 4.4393899999999995, 6.0009e-12, 4.5404, 6.0621e-12, 4.64141, 6.1242e-12, 4.74242, 6.1874e-12, 4.84343, 6.2517e-12, 4.944444, 6.3183e-12, 5.045455, 6.4017e-12, 5.14646, 6.503e-12, 5.24747, 8.0465e-12, 5.34848, 7.4326e-11, 5.44949, 3.0459e-09, 5.55051, 1.3632e-07, 5.65152, 5.9459e-06, 5.75253, 0.0001388, 5.85354, 0.00060999, 5.95455, 0.0012361, 6.0556, 0.0019143, 6.1566, 0.0026152, 6.2576, 0.0033279, 6.3586, 0.0040472, 6.4596, 0.0047713, 6.5606, 0.0055014, 6.6616, 0.0062374, 6.7626, 0.0069769, 6.8636, 0.0077189, 6.9646, 0.0084627, 7.0657, 0.0092081, 7.1667000000000005, 0.0099549, 7.2677, 0.010703, 7.3687000000000005, 0.011452, 7.4697, 0.012201, 7.5707, 0.012952, 7.6716999999999995, 0.013703, 7.7727, 0.014455, 7.8736999999999995, 0.015207, 7.9747, 0.015959, 8.075800000000001, 0.016713, 8.1768, 0.017466, 8.2778, 0.01822, 8.3788, 0.018974, 8.479800000000001, 0.019729, 8.5808, 0.020484, 8.681799999999999, 0.021239, 8.7828, 0.021995, 8.8838, 0.02275, 8.9848, 0.023506, 9.085899999999999, 0.024262, 9.1869, 0.025018, 9.2879, 0.025775, 9.3889, 0.026531, 9.489899999999999, 0.027288, 9.590900000000001, 0.028045, 9.6919, 0.028802, 9.7929, 0.02956, 9.8939, 0.030317, 9.994900000000001, 0.031074, 10.096, 0.031832, 10.197, 0.03259, 10.298, 0.033347, 10.399000000000001, 0.034105, 10.5, 0.034863)
V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -1.839, -4.6, -1.4786, -3.7, -1.119, -2.8, -0.76063, -1.9, -0.405, -1.0, -0.062812, -0.9875, -0.058541, -0.975, -0.054319, -0.9625, -0.05015, -0.95, -0.046043, -0.9375, -0.042005, -0.925, -0.038047, -0.9125, -0.034179, -0.9, -0.030415, -0.8875, -0.026772, -0.875, -0.023269, -0.8625, -0.01993, -0.85, -0.016783, -0.8375, -0.013858, -0.825, -0.011191, -0.8125, -0.0088141, -0.8, -0.0067592, -0.7875, -0.0050445, -0.775, -0.0036708, -0.7625, -0.0026162, -0.75, -0.0018392, -0.7375, -0.0012865, -0.725, -0.0009036, -0.7125, -0.00064256, -0.7, -0.00046561, -0.6875, -0.00034515, -0.675, -0.00026206, -0.6625, -0.00020356, -0.65, -0.00016127, -0.6375, -0.0001298, -0.625, -0.00010567, -0.6125, -8.668e-05, -0.6, -7.139e-05, -0.5875, -5.8872e-05, -0.575, -4.8507e-05, -0.5625, -3.9867e-05, -0.55, -3.2648e-05, -0.5375, -2.6618e-05, -0.525, -2.1597e-05, -0.5125, -1.743e-05, -0.5, -1.3965e-05, -0.4875, -1.113e-05, -0.475, -8.8238e-06, -0.4625, -6.961e-06, -0.45, -5.4656e-06, -0.4375, -4.2726e-06, -0.425, -3.3261e-06, -0.4125, -2.5793e-06, -0.4, -1.9927e-06, -0.3875, -1.534e-06, -0.375, -1.1765e-06, -0.3625, -8.9844e-07, -0.35, -6.8212e-07, -0.3375, -5.1266e-07, -0.325, -3.7693e-07, -0.3125, -2.6516e-07, -0.3, -1.7784e-07, -0.2875, -1.1623e-07, -0.275, -7.5107e-08, -0.2625, -4.8262e-08, -0.25, -3.0914e-08, -0.2375, -1.9764e-08, -0.225, -1.2619e-08, -0.2125, -8.0506e-09, -0.2, -5.133e-09, -0.1875, -3.2713e-09, -0.175, -2.0841e-09, -0.1625, -1.3273e-09, -0.15, -8.4492e-10, -0.1375, -5.3748e-10, -0.125, -3.4153e-10, -0.1125, -2.1662e-10, -0.1, -1.3697e-10, -0.0875, -8.6168e-11, -0.075, -5.3743e-11, -0.0625, -3.3033e-11, -0.05, -1.9789e-11, -0.0375, -1.1303e-11, -0.025, -5.85e-12, -0.0125, -2.3271e-12, 0.0, 0.0, 0.61111, 0.0, 1.2222, 0.0, 1.8333, 0.0, 2.4444, 0.0, 3.0556, 0.0, 3.6667, 0.0, 4.2778, 0.0, 4.8889, 0.0, 5.5, 0.0)

.ENDS
