*********************************************************************
*
* IBIS filename: lvc1g07.ibs
* Component: 74LVC1G07_GF
* Model: LVC1G07_XGIN_33
* Model Type: Input
* Corner: WeakSlow
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [50.0 -10.0 105.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT LVC1G07_XGIN_33-Input-WeakSlow IN

.param C_pkg = 1.153e-13
.param L_pkg = 6.066e-10
.param R_pkg = 0.03977
.param C_comp = 2.12e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V2 GND_CLAMP_REF 0 0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -5.5, -2.307, -5.0, -2.06, -4.5, -1.812, -4.0, -1.565, -3.5, -1.318, -3.0, -1.072, -2.5, -0.825769, -2.0, -0.581346, -1.5, -0.339786, -1.479, -0.329553, -1.457, -0.319333, -1.436, -0.30913, -1.414, -0.298942, -1.393, -0.288772, -1.371, -0.278621, -1.35, -0.26849, -1.329, -0.25838, -1.307, -0.248293, -1.286, -0.238231, -1.264, -0.228195, -1.243, -0.218189, -1.221, -0.208213, -1.2, -0.198272, -1.179, -0.188368, -1.157, -0.178505, -1.136, -0.168687, -1.114, -0.158919, -1.093, -0.149205, -1.071, -0.139554, -1.05, -0.129971, -1.029, -0.120467, -1.007, -0.111052, -0.985714, -0.101737, -0.964286, -0.092541, -0.942857, -0.08348, -0.921429, -0.07458, -0.9, -0.065869, -0.878571, -0.057386, -0.857143, -0.04918, -0.835714, -0.041313, -0.814286, -0.033864, -0.792857, -0.026939, -0.771429, -0.020663, -0.75, -0.015181, -0.728571, -0.010635, -0.707143, -0.007112, -0.685714, -0.004589, -0.664286, -0.002919, -0.642857, -0.00188, -0.621429, -0.001253, -0.6, -0.000876533, -0.578571, -0.000642985, -0.557143, -0.000490839, -0.535714, -0.000385575, -0.514286, -0.00030841, -0.492857, -0.000249067, -0.471429, -0.000200271, -0.45, -0.000160958, -0.428571, -0.000129052, -0.407143, -0.000103083, -0.385714, -8.1966e-05, -0.364286, -6.4839e-05, -0.342857, -5.0993e-05, -0.321429, -3.9815e-05, -0.3, -3.0736e-05, -0.278571, -2.3053e-05, -0.257143, -1.5505e-05, -0.235714, -8.758e-06, -0.214286, -4.568e-06, -0.192857, -2.296e-06, -0.171429, -1.125e-06, -0.15, -5.39316e-07, -0.128571, -2.53513e-07, -0.107143, -1.16642e-07, -0.085714, -5.2177e-08, -0.064286, -2.229e-08, -0.042857, -8.672e-09, -0.021429, -2.608e-09, 0.0, 0.0, 0.5, 0.0, 1.0, 0.0, 1.5, 0.0, 2.0, 0.0, 2.5, 0.0, 3.0, 0.0, 3.5, 0.0, 4.0, 0.0, 4.5, 0.0, 5.0, 0.0, 5.5, 0.0)

.ENDS
