*********************************************************************
*
* IBIS filename: stm32g031_041_ufqfpn28.ibs
* Component: stm32g031_041_ufqfpn28
* Model: io6_ft_3v3_highspeed
* Model Type: I/O
* Corner: Typical
* Voltage Range (V): None (Typ, Min, Max)
* Temperature Range (degC): [25.0 125.0 -40.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT io6_ft_3v3_highspeed-Input-Typical IN

.param C_pkg = 0.1e-12
* WARNING: Could not parse the C_pkg so has been set to a nominal of 0.1pF
.param L_pkg = 1e-9
* WARNING: Could not parse the L_pkg so has been set to a nominal of 1nF
.param R_pkg = 0.01
* WARNING: Could not parse the R_pkg so has been set to a nominal of 0.01ohm
.param C_comp = 1.2904e-12

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 3.3
B1 DIE PWR_CLAMP_REF I = table(V(DIE), 3.3, 0.0, 3.38, 0.0, 3.42, 0.0, 6.58, 0.0)
V2 GND_CLAMP_REF 0 0.0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -3.3, -9.6101, -2.11, -9.6101, -2.04, -9.6101, -1.97, -8.9738, -1.9, -8.3419, -1.83, -7.7338, -1.76, -7.1439, -1.69, -6.5599, -1.62, -5.977, -1.55, -5.3946, -1.48, -4.8127, -1.41, -4.2312, -1.34, -3.6506, -1.27, -3.0709, -1.2, -2.4927, -1.13, -1.9167, -1.06, -1.3446, -0.99, -0.77976, -0.92, -0.23554, -0.85, -0.026063, -0.78, -0.0044987, -0.71, -0.0017224, -0.64, -0.00080671, -0.57, -0.00029843, -0.5, -7.0568e-05, -0.43, -1.0478e-05, -0.36, -1.1127e-06, -0.29, -9.4335e-08, -0.22, 0.0, -0.15, 0.0, -0.08, 0.0, 3.28, 0.0)

.ENDS
