*********************************************************************
*
* IBIS filename: sn74lv1t34.ibs
* Component: SN74LV1T34DBV
* Model: input_3p3
* Model Type: Input
* Corner: Typical
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [40.0 -40.0 140.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT input_3p3-Input-Typical IN

.param C_pkg = 2.6256e-13
.param L_pkg = 1.83153e-09
.param R_pkg = 0.06209
.param C_comp = 6.77e-13

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 3.3
B1 DIE PWR_CLAMP_REF I = table(V(DIE), -3.3, 0.0, 2.514, 0.0, 2.6928, 0.0, 2.694, 0.0, 2.8409999999999997, 0.0, 2.8632, 0.0, 3.0261, 0.0, 3.0269999999999997, 0.0, 3.0288, 0.0, 3.1872, 0.0, 3.2369999999999997, 0.0, 3.2988, 0.0, 3.2999999999999856, 0.0, 3.3000000000000336, 0.0, 3.3024, 0.0, 3.303, 0.0, 3.3362999999999996, 0.0, 3.3384, 0.0, 3.4139999999999997, 0.0, 3.4848, 0.0, 3.4859999999999998, 0.0, 3.558, 0.0, 3.63, 0.0, 3.8423999999999996, 0.0, 4.05, 0.0, 4.0512, 0.0, 4.2528, 1.01889e-08, 4.4483999999999995, 1.18452e-08, 4.449, 1.18505e-08, 4.4508, 1.18667e-08, 4.4715, 1.20536e-08, 4.6452, 1.3713e-08, 4.8312, 1.56778e-08, 4.8324, 1.56911e-08, 5.0196, 1.78794e-08, 5.1996, 2.01946e-08, 5.2008, 2.02108e-08, 5.202, 2.02269e-08, 5.2032, 2.02431e-08, 5.229, 2.05933e-08, 5.2305, 2.06137e-08, 5.2932, 2.14844e-08, 5.3823, 2.27689e-08, 5.3832, 2.27822e-08, 5.4732, 2.4138e-08, 5.560499999999999, 2.55101e-08, 5.561999999999999, 2.55342e-08, 5.5632, 2.55535e-08, 5.590199999999999, 2.599e-08, 5.736, 2.84442e-08, 5.8224, 2.99777e-08, 5.908799999999999, 3.15718e-08, 5.91, 3.15944e-08, 5.910299999999999, 3.16e-08, 5.9124, 3.16396e-08, 5.933999999999999, 3.20484e-08, 5.9367, 3.20998e-08, 5.998799999999999, 3.32984e-08, 6.084, 3.49965e-08, 6.0852, 3.50208e-08, 6.1716, 3.68082e-08, 6.255, 3.85965e-08, 6.2568, 3.86358e-08, 6.258, 3.8662e-08, 6.2733, 3.89973e-08, 6.3444, 4.05836e-08, 6.429, 4.25323e-08, 6.4308, 4.25745e-08, 6.5172, 4.4636e-08, 6.6, 4.66793e-08)
V2 GND_CLAMP_REF 0 0.0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -3.3, -0.954172, -2.364, -0.574962, -2.3496, -0.56916, -2.3136, -0.554661, -1.686, -0.303843, -1.6836, -0.302894, -1.6764, -0.300048, -1.674, -0.2991, -1.6476, -0.288676, -1.647, -0.288439, -1.2516, -0.135018, -1.251, -0.134792, -1.2408, -0.130943, -1.239, -0.130265, -1.227, -0.125751, -1.2264, -0.125525, -1.1256, -0.0882455, -1.0956, -0.0774427, -1.065, -0.0666209, -1.0392, -0.0576899, -1.038, -0.0572799, -1.0362, -0.0566648, -0.99, -0.0413318, -0.9888, -0.0409475, -0.987, -0.0403712, -0.9867, -0.0402751, -0.9672, -0.0341644, -0.9669, -0.034072, -0.939, -0.0258186, -0.9384, -0.0256485, -0.9372, -0.0253084, -0.936, -0.0249722, -0.9339, -0.0243838, -0.906, -0.0170723, -0.9042, -0.0166338, -0.891, -0.0135872, -0.888, -0.0129361, -0.861, -0.00784432, -0.8514, -0.00640081, -0.8118, -0.00250965, -0.81, -0.00240384, -0.798, -0.00180002, -0.7953, -0.00168826, -0.747, -0.000634964, -0.7128, -0.000380055, -0.7008, -0.000324291, -0.699, -0.000316792, -0.6972, -0.000309549, -0.603, -9.11465e-05, -0.33, -6.28608e-07, -0.324, -5.51485e-07, -0.3201, -5.05895e-07, -0.315, -4.52096e-07, -0.3135, -4.36968e-07, -0.3102, -4.05904e-07, -0.3084, -3.90095e-07, -0.306, -3.69548e-07, -0.297, -3.0119e-07, -0.294, -2.81293e-07, -0.2937, -2.79303e-07, -0.2871, -2.39939e-07, -0.2868, -2.38334e-07, -0.285, -2.287e-07, -0.2796, -2.01678e-07, -0.279, -1.989e-07, -0.276, -1.854e-07, -0.267, -1.49864e-07, -0.2607, -1.28948e-07, -0.255, -1.12531e-07, -0.2544, -1.10878e-07, -0.2541, -1.10051e-07, -0.2436, -8.5355e-08, -0.231, -6.26242e-08, -0.2292, -5.99477e-08, -0.228, -5.81634e-08, -0.198, -2.74604e-08, -0.1968, -2.66639e-08, -0.1824, -1.85503e-08, -0.1617, -1.10511e-08, -0.159, -1.03444e-08, -0.108, 0.0, -0.1068, 0.0, -0.003, 0.0, 6.6, 0.0)

.ENDS
